US07732452B2
Step 1: 4-(2-Chloro-2-fluoro-acetylamino)-thiophene-3-carboxylic acid methyl ester
To a suspension of 4-amino-thiophene-3-carboxylic acid methyl ester (2 g) in dichloromethane (25 mL) was added chlorofluoroacetyl chloride (1.16 mL) and the reaction mixture was stirred to −15° C. Then a solution of triethylamine (3.2 mL) in dichloromethane (5 mL) was added slowly to the cold reaction mixture which was then allowed to warm up and stirred at room temperature for one hour. The reaction mixture was then diluted with further methylene chloride and washed several times with water, dried with sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography to yield the title compound as a light yellow solid. MS (EI): 251.1; mp=51-54° C.

reactant | 4-amino-thiophene-3-carboxylic acid methyl ester | 2 g | COC(=O)C1=CSC=C1N | C6H7NO2S
reactant | chlorofluoroacetyl chloride | 1.16 mL | ClC(C(=O)Cl)F | C2HCl2FO
reactant | triethylamine | 3.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-Chloro-2-fluoro-acetylamino)-thiophene-3-carboxylic acid methyl ester | COC(=O)C1=CSC=C1NC(C(F)Cl)=O | C8H7ClFNO3S
